US05559111
c) 4-Benzyloxy-3-(3-methoxypropyloxy)-benzyl alcohol
A solution of 31 g of 4-benzyloxy-3-(3-methoxypropyloxy)-benzaldehyde in 530 ml of ethanol/water=8:2 is added dropwise to a suspension, stirred at 0° C., of 11.74 g of sodium boranate in 530 ml of a mixture of ethanol/water=8:2. The reaction mixture is stirred for one hour at 0° C. and is then concentrated by evaporation. The residue is partitioned between diethyl ether and water. The combined organic phases are dried over sodium sulfate and concentrated by evaporation, and the residue is purified by FC (100 g of silica gel, dichloromethane/diethyl ether=1:1), yielding the title compound: Rf (dichloromethane/diethyl ether=1:1)=0.43.

reactant | 4-benzyloxy-3-(3-methoxypropyloxy)-benzaldehyde | 31 g | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)OCCCOC | C18H20O4
reactant | sodium boranate | 11.74 g | B(=O)[O-].[Na+]
solvent | ethanol water | 530 ml | C(C)O.O
product | 4-Benzyloxy-3-(3-methoxypropyloxy)-benzyl alcohol | C(C1=CC=CC=C1)OC1=C(C=C(CO)C=C1)OCCCOC | C18H22O4
